US07598417B2
1-(2-Fluoro-ethyl)-3-(4-fluoro-indan-2-yl)-urea:
The title urea was generated from 4-fluoro-2-isocyanato-indan (11.10 mmol), fluoroethyl amine hydrochloride (1.10 g, 90% purity, 9.95 mmol) and diisopropylethyl amine (3.90 mL, 22.39 mmol) according to the protocols as outlined in general procedure G. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ 2.67-2.80 (m, 2H), 3.12-3.28 (m, 3H), 3.31-3.37 (m, 1H), 4.23-4.55 (m, 3H), 6.0 (t, 1H, J=6.7 Hz), 6.4 (d, 1H, J=7.0 Hz), 7.0 (t, 1H, J=9.1 Hz), 7.1 (d, 1H, J=7.3 Hz), 7.15-7.24 (m, 1H).

reactant | urea | NC(=O)N | CH4N2O
reactant | 4-fluoro-2-isocyanato-indan | 11.10 mmol | FC1=C2CC(CC2=CC=C1)N=C=O | C10H8FNO
reactant | fluoroethyl amine hydrochloride | 9.95 mmol, 1.10 g | Cl.FCCN
reactant | diisopropylethyl amine | 22.39 mmol, 3.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 1-(2-Fluoro-ethyl)-3-(4-fluoro-indan-2-yl)-urea | FCCNC(=O)NC1CC2=CC=CC(=C2C1)F | C12H14F2N2O
